US07087626B2
7-Acetoxy-2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[1,5-a]piperidine
A solution of 2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[1,5-a]piperidin-7-ol (0.04 g, 0.12 mmol) and acetic anhydride (0.2 mL) in pyridine (2 mL) at room temperature is stirred for 24 h. The mixture is partitioned between ethyl acetate and water. The organic portion is washed with water and brine, dried (sodium sulfate), filtered, and concentrated in vacuo. The residue is chromatographed on SiO2 (5% methanol/dichloromethane) to yield the title compound, 0.41 g (91%), as a white solid.

reactant | 2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[1,5-a]piperidin-7-ol | 0.12 mmol, 0.04 g | N1=C(C=CC=C1)C1=NN2C(CCCC2O)=C1C1=CC=NC2=CC=CC=C12 | C21H18N4O
reactant | acetic anhydride | 0.2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 7-Acetoxy-2-pyridin-2-yl-3-quinolin-4-yl-pyrazolo[1,5-a]piperidine | C(C)(=O)OC1CCCC=2N1N=C(C2C2=CC=NC1=CC=CC=C21)C2=NC=CC=C2 | C23H20N4O2
